US06395733B1
(3Chloro-phenyl)-(pyrido[4,3-d]pyrimidin-4-yl)-amine Hydrochloride
To 4-hydroxy-pyrido[4,3-d]pyrimidine (0.13 g, 0.90 mmol) in phosphorus oxychloride (2 ml) was added dry pyridine (0.15 ml, 1.8 mmol). A condenser and CaCl2 drying tube were attached and the suspension was refluxed for 3 hours. The final, clear solution was concentrated in vacuo (CaCl2 drying tube) and followed by a toluene chase. The resulting 4-chloro-pyrido[4,3-d]pyrimidine was dissolved in dry pyridine (1.5 ml). 3-Chloroaniline (0.096 ml, 0.90 mmol) was added, and the mixture was heated in an 85° C. oil bath for 23 hours. The reaction was cooled to ambient temperature and concentrated in vacuo. The oily residue was partitioned between CH2Cl2 and H2O, filtered, and the H2O phase extracted with CH2Cl2. The combined organic phases were dried over Na2SO4 and concentrated in vacuo. The resulting residue was purified by flash chromatography on silica gel (5 g, 40 μm mesh) using 5% methano/CH2Cl2 to afford the title compound as an off-white solid (3 mg, 1.3%). LC-MS: 257 (MH+); anal. RP18-HPLC RT: 3.85 min.

reactant | 4-hydroxy-pyrido[4,3-d]pyrimidine | 0.90 mmol, 0.13 g | OC=1C2=C(N=CN1)C=CN=C2 | C7H5N3O
reactant | pyridine | 1.8 mmol, 0.15 ml | N1=CC=CC=C1 | C5H5N
reactant | 3-Chloroaniline | 0.90 mmol, 0.096 ml | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | phosphorus oxychloride | 2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | (3Chloro-phenyl)-(pyrido[4,3-d]pyrimidin-4-yl)-amine Hydrochloride | 3 mg, 1.3% | Cl.ClC=1C=C(C=CC1)NC=1C2=C(N=CN1)C=CN=C2 | InChI=1S/C13H9ClN4.ClH/c14-9-2-1-3-10(6-9)18-13-11-7-15-5-4-12(11)16-8-17-13;/h1-8H,(H,16,17,18);1H
